US20010011094A1
To the stirred solution of 2,6-dichlorobenzeneethanimidamide HCl (1:1), (0.0042 mol) in ethanol (20 ml), a solution of sodium (0.013 mol) in ethanol (10 ml) was added dropwise first and then propanedioic acid, diethyl ester (0.0109 mol) was added. The reaction mixture was stirred and refluxed for 4 hours and then stirred at room temperature overnight After adding another equivalent of propanedioic acid, diethyl ester (stirring and refluxing it overnight), the solvent was evaporated and the residue was dissolved in water and acidified with 1 N HCl. The solid was filtered off, washed with water and dried, yielding 0.87 g (76.4%) of 2-[(2,6-dichloro-phenyl)methyl]-4,6-pyrimidinediol (interm. 8).

reactant | 2,6-dichlorobenzeneethanimidamide HCl | 0.0042 mol | Cl.ClC1=C(C(=CC=C1)Cl)CC(N)=N
reactant | sodium | 0.013 mol | [Na] | Na
reactant | propanedioic acid, diethyl ester | 0.0109 mol | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[(2,6-dichloro-phenyl)methyl]-4,6-pyrimidinediol | 0.87 g, 76.4% | ClC1=C(C(=CC=C1)Cl)CC1=NC(=CC(=N1)O)O | C11H8Cl2N2O2
